US06787671B2
Cyclooctene (100 mg) was dissolved in DMF (10 mL), and OsO4 (0.11 mL, 2.5% in tBuOH) was added and stirred for 5 min. OXONE (2.23 g) was added in one portion and the reaction had a final volume (14 mL). The reaction was stirred at room temperature for 3 hours or until the solution becomes colorless. This usually marks the completion of the reaction which was verified by TLC or GC. Na2SO3 (600 mg) was added, to reduce the remaining Os(VIII), and stirred for an additional hour or until solution became dark brown/black. EtOAc was added to extract the products and 1N HCl was used to dissolve the salts. The organic extract was washed with 1N HCl (50 mL×3) and brine (50 mL), dried over Na2SO4, and the solvent was removed under reduced pressure to obtain the crude product. Suberic acid was obtained in 82% yield, 92% yield by GC, after purification by silica gel column chromatography.

reactant | Cyclooctene | 100 mg | C1=CCCCCCC1 | C8H14
reactant | OXONE | 2.23 g | OOS(=O)[O-].[K+]
reactant | Na2SO3 | 600 mg | [O-]S(=O)[O-].[Na+].[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | OsO4 | 0.11 mL | O=[Os](=O)(=O)=O
product | Suberic acid | 82% yield | C(CCCCCCC(=O)O)(=O)O | C8H14O4
